US07968725B2
f) 2-[2-(4-Fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid
A solution of 2-[2-(4-fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester (80 mg, 0.18 mmol) in NaOH (1N, 1 mL) and THF (4 mL) was stirred at 40° C. overnight. The mixture was cooled to room temperature, acidified with 10% citric acid, and extracted with CH2Cl2 (3×). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by chromatography (5-25% ethyl acetate in CH2Cl2) to give the product as a white foam (60 mg, 77%). 1H NMR (300 MHz, CDCl3) δ 8.21 (d, J=8.29 Hz, 2H), 8.05-8.15 (m, 2H), 7.73 (d, J=8.29 Hz, 2H), 7.65 (d, J=1.51 Hz, 2H), 7.11-7.23 (m, 2H), 3.80 (t, J=7.72 Hz, 1H), 2.08-2.16 (m, 1H), 1.77 (dt, J=7.06, 13.75 Hz, 1H), 1.48-1.64 (m, 1H), 0.96 (d, J=6.40 Hz, 6H). MS m/e 432.3 (M+H).

reactant | 2-[2-(4-fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 0.18 mmol, 80 mg | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)F)=O | C25H23F4NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-[2-(4-Fluoro-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid | 60 mg, 77% | FC1=CC=C(C=C1)C1=NC(=CC(=C1)C(C(=O)O)CC(C)C)C1=CC=C(C=C1)C(F)(F)F | C24H21F4NO2
